US04356313
Ethyl fluoro[(5,6-dichloro-9a-ethyl-3-oxo-1,2,9,9a-tetrahydro-3H-fluoren-7-yl)oxy]acetate (4.01 gm., 0.02 mole) is dissolved in ethanol (75 ml.) and treated with a solution of sodium bicarbonate (3.36 gm., 0.04 mole) in water (150 ml.). The mixture is heated and stirred on a steam bath for 15 minutes and then concentrated in vacuo to a volume of 50 ml. The residual solution is diluted with water (50 ml.) and acidified to Congo red test paper with 6 normal hydrochloric acid. The precipitate that forms is removed by filtration, washed with water and dried. The product is sufficiently pure for use but it may be further purified by recrystallization from a mixture of acetic acid and water to produce pure fluoro[(5,6-dichloro-9a-ethyl-3-oxo-1,2,9,9a-tetrahydro-3H-fluoren-7-yl)oxy]acetic acid.

reactant | Ethyl fluoro[(5,6-dichloro-9a-ethyl-3-oxo-1,2,9,9a-tetrahydro-3H-fluoren-7-yl)oxy]acetate | 0.02 mole, 4.01 gm | FC(C(=O)OCC)OC1=C(C(=C2C3=CC(CCC3(CC2=C1)CC)=O)Cl)Cl | C19H19Cl2FO4
reactant | sodium bicarbonate | 0.04 mole, 3.36 gm | C([O-])(O)=O.[Na+]
solvent | ethanol | 75 ml | C(C)O | C2H6O
solvent | water | 150 ml | O | H2O
product | fluoro[(5,6-dichloro-9a-ethyl-3-oxo-1,2,9,9a-tetrahydro-3H-fluoren-7-yl)oxy]acetic acid | FC(C(=O)O)OC1=C(C(=C2C3=CC(CCC3(CC2=C1)CC)=O)Cl)Cl | C17H15Cl2FO4
